US05185363
b) 1-(5-Methylthien-2-yl)propanone
A solution of 1-(5-methylthien-2-yl)propanol from above (20 mmol) and pyridinium dichromate (9.03 g, 24 mmol) in 100 mL CH2Cl2 was stirred for 18 h. The reaction was then filtered through Celite and the filtrate was concentrated. The resulting residue was purified by chromatography (silica gel, etherhexanes, 1:9) to afford 1.86 g (60% over the two steps) of the desired product.

reactant | 1-(5-methylthien-2-yl)propanol | CC1=CC=C(S1)C(CC)O | C8H12OS
reactant | pyridinium dichromate | 24 mmol, 9.03 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Methylthien-2-yl)propanone | CC1=CC=C(S1)CC(C)=O | C8H10OS
